US03988300
Dimethylcarbamoyl chloride (7.5 grams, 0.07 mole) was added to a solution of 3-aminobenzophenone (10 grams, 0.05 mole) in dimethylformamide (150 ml.), triethylamine (10 ml.) at 10° C. with stirring and ice cooling. The reaction temperature was next raised to 60° C. for 20 hours, then cooled and poured onto ice water (500 grams) containing dilute hydrochloric acid. A tarry solid was obtained by decanting off the aqueous organic solution. Purification was effected by dissolving the tarry solid in methylene chloride and passing through a silica gel dry column eluant methylene chloride. On elution with dichloromethane, the product, 3-(m-benzoylphenyl)-1,1-dimethyl urea, is obtained. Melting point was 104° -105° C. Crystallization from benzene-hexane (9:1) mixture gave solid 109° - 110° C., which on benzene-hexane crystallizations afforded a melting point of from 121° to 122° C. identified as the desired urea by comparison with the sample prepared from phosgene and dimethylamine.

reactant | Dimethylcarbamoyl chloride | 0.07 mole, 7.5 grams | CN(C(=O)Cl)C | C3H6ClNO
reactant | 3-aminobenzophenone | 0.05 mole, 10 grams | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 3-(m-benzoylphenyl)-1,1-dimethyl urea | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(N(C)C)=O | C16H16N2O2
